US06284785B1
(2RS,3RS)-2-(4-Fluoro-phenyl)-3-methyl-1-(toluene-4-sulfonyl)-pyrrolidine
The title compound, off-white solid, m.p. 112° C. and MS: m/e=354.2 (M+) was prepared in accordance with the general method of example 1e from (2RS,3RS)-2-(4-fluoro-phenyl)-3-methyl-pyrrolidine and toluene-4-sulfonyl chloride.

reactant | (2RS,3RS)-2-(4-fluoro-phenyl)-3-methyl-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1C | C11H14FN
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (2RS,3RS)-2-(4-Fluoro-phenyl)-3-methyl-1-(toluene-4-sulfonyl)-pyrrolidine | FC1=CC=C(C=C1)C1N(CCC1C)S(=O)(=O)C1=CC=C(C=C1)C | C18H20FNO2S
